US09302989B2
methyl 2-{[4-(propylcarbamoyl)phenyl]carbamoyl}isoindoline-5-carboxylate
A solution of 4-amino-N-propylbenzamide (390 mg, 2.19 mmol), bis(2,5-dioxopyrrolidin-1-yl) carbonate (700 mg, 2.74 mmol), and pyridine (0.18 mL, 2.19 mmol) in acetonitrile (5 mL) was stirred at ambient temperature for 30 minutes. Diisopropylethylamine (0.85 mL, 6.6 mmol)) was added followed by a suspension of methyl isoindoline-5-carboxylate hydrochloride (538 mg, 2.52 mmol) and diisopropylethylamine (0.46 mL, 4.4 mmol) in 1-methyl-2-pyrrolidinone (8 mL) added dropwise via syringe over ˜5 minutes. The reaction became a suspension and was stirred 3 hours. The reaction was treated with water (30 mL) and the resulting suspension was stirred 5 minutes and filtered. The solid collected was washed with water and dried under vacuum to provide the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.63 (s, 1H), 8.26 (t, J=5.6 Hz, 1H), 7.94-7.97 (m, 1H), 7.90-7.96 (m, 1H), 7.75-7.78 (m, 2H), 7.63-7.67 (m, 2H), 7.52 (d, J=7.9 Hz, 1H), 4.83-4.86 (m, 4H), 3.87 (s, 3H), 3.16-3.22 (m, 2H), 1.46-1.59 (m, 2H), 0.89 (t, J=7.4 Hz, 3H); MS (ESI(+)) m/e 382 (M+H)+.

reactant | 4-amino-N-propylbenzamide | 2.19 mmol, 390 mg | NC1=CC=C(C(=O)NCCC)C=C1 | C10H14N2O
reactant | bis(2,5-dioxopyrrolidin-1-yl) carbonate | 2.74 mmol, 700 mg | C(ON1C(CCC1=O)=O)(ON1C(CCC1=O)=O)=O | C9H8N2O7
reactant | pyridine | 2.19 mmol, 0.18 mL | N1=CC=CC=C1 | C5H5N
reactant | Diisopropylethylamine | 6.6 mmol, 0.85 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl isoindoline-5-carboxylate hydrochloride | 2.52 mmol, 538 mg | Cl.C1NCC2=CC(=CC=C12)C(=O)OC
reactant | diisopropylethylamine | 4.4 mmol, 0.46 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | 1-methyl-2-pyrrolidinone | 8 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 30 mL | O | H2O
product | methyl 2-{[4-(propylcarbamoyl)phenyl]carbamoyl}isoindoline-5-carboxylate | C(CC)NC(=O)C1=CC=C(C=C1)NC(=O)N1CC2=CC=C(C=C2C1)C(=O)OC | C21H23N3O4
